US07429609B2
5-Carbamoylfuran-2-carboxylic acid benzyl ester
170 mg of furan-2,5-dicarboxylic acid monobenzyl ester was dissolved in 5 mL of tetrahydrofuran, and added with 144 μl of triethylamine. After cooling to 0° C., 72.3 μl of ethyl chloroformate was added dropwise and stirred at this temperature for 30 minutes. 1 mL of concentrated ammonia water was added and stirred at room temperature for 10 minutes, and then aqueous ammonium chloride was added to stop the reaction. After extracting the aqueous phase with ethyl acetate, the organic phase was washed with water and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated, to afford 185 mg of the title compound as white crystals.

reactant | furan-2,5-dicarboxylic acid monobenzyl ester | 170 mg | C(C1=CC=CC=C1)OC(=O)C=1OC(=CC1)C(=O)O | C13H10O5
reactant | ethyl chloroformate | 72.3 μl | ClC(=O)OCC | C3H5ClO2
reactant | ammonia water | 1 mL | O.N
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | triethylamine | 144 μl | C(C)N(CC)CC | C6H15N
product | 5-Carbamoylfuran-2-carboxylic acid benzyl ester | 185 mg | C(C1=CC=CC=C1)OC(=O)C=1OC(=CC1)C(N)=O | C13H11NO4
